US04547501
(d) Preparation of 4-chloro-7,8-difluoro-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 5.99 g. (0.026 mole) of 2-chloro-6,7-difluoro-3-hydrazinoquinoxaline and 30 ml. (0.18 mole) of triethyl orthoformate was heated at 100° C. for a period of 24 hours to give a red-brown solid. The resulting slurry was then cooled to room temperature and filtered, and the recovered product subsequently washed with diethyl ether to ultimately afford 5.15 g. (82%) of pure 4-chloro-7,8-difluoro-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. >210° C. (decomp.). Mass Spectrum: m/e, 242/240 (P+).

reactant | 2-chloro-6,7-difluoro-3-hydrazinoquinoxaline | 0.026 mole | ClC1=NC2=CC(=C(C=C2N=C1NN)F)F | C8H5ClF2N4
reactant | triethyl orthoformate | 0.18 mole | C(OCC)(OCC)OCC | C7H16O3
product | 4-chloro-7,8-difluoro-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC(=C(C=C3N1)F)F)C=NN2 | C9H3ClF2N4
